US06326369B1
A mixture of 7-(2-iodoethyl)-1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cycloheptene (1.50 g), 2-hydroxypyridine (407 mg), and potassium carbonate (987 mg) in DMF (15 ml) was stirred at room temperature for 12 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride and dried. The solvent was removed in vacuo. The residue was diluted with hexane and the resultant crystals were collected by filtration. The crystals were recrystallized from hexane-ethyl acetate to obtain 2-[2-(1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethoxy]pyridine (830 mg).

reactant | 7-(2-iodoethyl)-1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cycloheptene | 1.50 g | ICCC1CCC2=C(CC1)C(=C(C(=C2OC)OC)OC)OC | C17H25IO4
reactant | 2-hydroxypyridine | 407 mg | OC1=NC=CC=C1 | C5H5NO
reactant | potassium carbonate | 987 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-[2-(1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethoxy]pyridine | 830 mg | COC1=C(C(=C(C2=C1CCC(CC2)CCOC2=NC=CC=C2)OC)OC)OC | C22H29NO5
